US04859661
To a suspension of 10.0 g of 4-n-propylphenol in 50 ml of water was added dropwise 11.0 ml of 61% nitric acid while cooling with ice, the temperature of mixture was raised to room temperature and the reaction was carried out for 2 hours. The reaction mixture was extracted with 300 ml of ethyl acetate, washed with a brine and dried with anhydrous sodium sulfate. The drying agent was filtered off and the solvent was distilled away under reduced pressure. The residue was purified by subjecting to silica-gel column-chromatography [eluent: chloroform]to give 8.69 g of 4-n-propyl-2-nitrophenol.

reactant | 4-n-propylphenol | 10.0 g | C(CC)C1=CC=C(C=C1)O | C9H12O
reactant | nitric acid | 11.0 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | 50 ml | O | H2O
product | 4-n-propyl-2-nitrophenol | 8.69 g | C(CC)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C9H11NO3
